US05389655
1. 3-Phenyl-4-(methoxycarbonylmethylmercapto)-1,2,5-oxadiazole-2-oxide
A mixture of 4.6 g of 3-phenyl-4-nitrofuroxan, 2.4 g of methyl thioglycolate and 2.2 g of triethylamine in 50 ml of methanol is stirred under a nitrogen atmosphere. In the course of this, the mixture warms to about 40° C. After 1 hour, it is poured into ice-water, whereupon a solid separates after stirring briefly, which is filtered off with suction and recrystallised from isopropanol.

reactant | 3-phenyl-4-nitrofuroxan | 4.6 g | C1(=CC=CC=C1)C1=[N+](ON=C1[N+](=O)[O-])[O-] | C8H5N3O4
reactant | methyl thioglycolate | 2.4 g | C(CS)(=O)OC | C3H6O2S
reactant | triethylamine | 2.2 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 50 ml | CO | CH4O
product | 3-Phenyl-4-(methoxycarbonylmethylmercapto)-1,2,5-oxadiazole-2-oxide | C1(=CC=CC=C1)C1=[N+](ON=C1SCC(=O)OC)[O-] | C11H10N2O4S
